US08877925B2
Preparation of methyl 6-amino-2-chloro-5-methoxy-pyrimidine-4-carboxylate
A solution comprising the reaction mixture prepared by Example 8, which reaction mixture contained the methyl 2,6-dichloro-5-methoxy-pyrimidine-4-carboxylate (25 g, 0.1 mol), and dimethyl sulfoxide (DMSO) was prepared. To this solution was added, at 0-5° C., a solution of ammonia in DMSO (2 eq). This mixture was stirred at the same 0-5° C. temperature for 10 to 15 minutes. Later, the mixture was diluted with ethyl acetate, and the resulting solid was filtered. The filtrate was washed with a brine solution. The organic layer was dried over sodium sulfate. Upon concentration, the crude product was obtained. The crude product was stirred in a minimum amount of ethyl acetate and filtered to obtain the pure compound. The resulting filtrate, after concentration, was column purified. This produced the title compound (11 g, 50% yield): mp 158° C.; 1H NMR (DMSO-d6) δ 3.71 (s, 3H), 3.86 (s, 3H), 7.65 (brs, 1H), 8.01 (brs, 1H).

reactant | methyl 2,6-dichloro-5-methoxy-pyrimidine-4-carboxylate | 0.1 mol, 25 g | ClC1=NC(=C(C(=N1)C(=O)OC)OC)Cl | C7H6Cl2N2O3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | ammonia | N | H3N
reactant | DMSO | 2 eq | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-amino-2-chloro-5-methoxy-pyrimidine-4-carboxylate | 11 g, 50% yield | NC1=C(C(=NC(=N1)Cl)C(=O)OC)OC | C7H8ClN3O3
